US08304557B2
N-[3-({2-[(cyclopropylcarbamoyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-3-methylpyridine-2-carboxamide
To a solution of N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide (129 mg, 0.359 mmol) and N,N-diisopropylethylamine (184 μL, 1.075 mmol) in tetrahydrofuran (5 mL) was added 2,2,2-trichloroethyl chlorocarbonate (52.0 μL, 0.378 mmol), and the mixture was stirred at room temperature for 30 min. Cyclopropaneamine (150 μL, 2.17 mmol) and N,N-dimethylacetamide (5 mL) were added to the reaction mixture, and the mixture was stirred at 80° C. for 22 hr. The reaction mixture was concentrated under reduced pressure, diluted with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (0%→100% ethyl acetate-hexane) to give the title compound (20.3 mg, 13%) as a white solid.

reactant | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide | 0.359 mmol, 129 mg | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC=CC=C2C)C1 | C20H17N5O2
reactant | N,N-diisopropylethylamine | 1.075 mmol, 184 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,2,2-trichloroethyl chlorocarbonate | 0.378 mmol, 52.0 μL | C(OCC(Cl)(Cl)Cl)(=O)Cl | C3H2Cl4O2
reactant | Cyclopropaneamine | 2.17 mmol, 150 μL | C1(CC1)N | C3H7N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | N-[3-({2-[(cyclopropylcarbamoyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-3-methylpyridine-2-carboxamide | 20.3 mg, 13% | C1(CC1)NC(=O)NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC=CC=C2C)C1 | C24H22N6O3
